US07405228B2
Preparation of (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The mixture of (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine (6.73 mmol), pyridine (26.9 mmol), acetic anhydride (9.43 mmol) in ethyl acetate (25 ml) was stirred for 5 hours at room temperature. The reaction mixture was extracted with the ethyl acetate water mixture and combined organic layer was dried over sodium sulfate. The removal of the solvent afforded a residue, which was chromatographed over silica gel to give title compound in 58% yield.

reactant | (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine | 6.73 mmol | COC1(C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN)=O)F)F)OC | C17H23F2N3O4
reactant | pyridine | 26.9 mmol | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 9.43 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 58% yield | COC1(C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CCC(=O)N)=O)F)F)OC | C19H25F2N3O5
